US05117057
A solution of N'-t-butyl-N-benzoylhydrazine (2.0 g) and nicotinoyl chloride hydrochloride in 20 ml of methylene chloride at 23° C. was treated dropwise with triethylamine (4 ml). The reaction mixture was stirred at 23° C. for 0.5 hours. Solids were removed by filtration. The filtrate was diluted with 10N HCl and ether. The layers were separated and the organic layer was washed with 10N HCl. The aqueous layer was neutralized with solid sodium bcarbonate and extracted with ether. The ether extracts were treated with charcoal and then dried with magnesium sulfate. Evaporation of solvents afforded a yellow oil which was chromatographed on silica gel using as eluant a mixture of 10% CH3OH, 40% CH2Cl2, 50% Et2O to afford N'-t-butyl-N-benzoyl-N'-nicotinoylhydrazine as a yellow foam. m.p. 60°-63° C.

reactant | N'-t-butyl-N-benzoylhydrazine | 2.0 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N'-t-butyl-N-benzoyl-N'-nicotinoylhydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CN=CC=C1)=O | C17H19N3O2
